US07893085B2
3-(4-Bromo-2-fluoro-phenylamino)-thieno[2,3-c]pyridine-2-carboxylic acid ((R)-2,3-dihydroxy-propoxy)-amide
A solution 3-(4-bromo-2-fluoro-phenylamino)-thieno[2,3-c]pyridine -2-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide (61 mg, 0.12 mmol) and 1 drop of concentrated HCl in methanol (2 ml) was stirred at ambient temperature for 2 hours. The solvent was evaporated in vacuo and the resultant residue partitioned between dichloromethane (20 ml), water (10 ml) and saturated NaHCO3 solution (3 ml). The organic phase was dried over sodium sulfate and concentrated in vacuo to afford a yellow oil. The resultant yellow oil was purified by flash chromatography (Si-SPE, DCM:MeOH, gradient 99:1 to 92:8) followed by trituration with methanol/acetonitrile to afford the title compound as an off-yellow solid (15 mg, 26%): LCMS (method A): RT=6.01 min, M+H+=456/458. 1H NMR (d4-MeOH, 400 MHz) 9.16 (d, J=0.8 Hz, 1H), 8.38 (d, J=5.8 Hz, 1H), 7.37-7.46 (m, 2H), 7.17 (ddd, J=8.6 Hz, 2.3 Hz, 2.2 Hz, 1H), 6.72 (dd, J=8.7 Hz, 8.7 Hz, 1H), 4.00-4.05 (m, 1H), 3.84-3.96 (m, 2H), 3.53-3.64 (m, 2H).

reactant | 3-(4-bromo-2-fluoro-phenylamino)-thieno[2,3-c]pyridine -2-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide | 0.12 mmol, 61 mg | CC1(OC[C@@H](O1)CONC(=O)C1=C(C=2C(=CN=CC2)S1)NC1=C(C=C(C=C1)Br)F)C | C20H19BrFN3O4S
catalyst | HCl | 1 drop | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 3-(4-Bromo-2-fluoro-phenylamino)-thieno[2,3-c]pyridine-2-carboxylic acid ((R)-2,3-dihydroxy-propoxy)-amide | 15 mg, 26% | O[C@@H](CONC(=O)C1=C(C=2C(=CN=CC2)S1)NC1=C(C=C(C=C1)Br)F)CO | C17H15BrFN3O4S
